US07211573B2
4.35 g (S)-2-tert-Butoxycarbonylamino-3-(4-fluoro-2-nitro-phenoxy)-propionic acid in 80 ml methanol were hydrogenated with 0.14 g Pd(10%)/C. Chromatography on silicagel with dichloromethane/methanol 9:1 yielded 2.08 g (52%) (S)-3-(2-amino-4-fluoro-phenoxy)-2-tert-butoxycarbonylamino-propionic acid as light brown solid, MS m/e (%): 313.0 (M−H+, 100).

reactant | (S)-2-tert-Butoxycarbonylamino-3-(4-fluoro-2-nitro-phenoxy)-propionic acid | 4.35 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)COC1=C(C=C(C=C1)F)[N+](=O)[O-] | C14H17FN2O7
reactant | dichloromethane methanol | ClCCl.CO
solvent | methanol | 80 ml | CO | CH4O
catalyst | Pd | 0.14 g | [Pd] | Pd
product | (S)-3-(2-amino-4-fluoro-phenoxy)-2-tert-butoxycarbonylamino-propionic acid | 2.08 g, 52% | NC1=C(OC[C@@H](C(=O)O)NC(=O)OC(C)(C)C)C=CC(=C1)F | C14H19FN2O5
